US07271197B2
i) 2-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)ethanol
Sodium hydride (60% dispersion in mineral oil, 145 mg) was added portionwise to a solution of 4-(2-hydroxyethyl)phenol (502 mg) in THF (15 ml) and the mixture was stirred at 20° C. for 30 min. tert-Butyldimethylsilyl chloride (547 mg) was added and the mixture was stirred for 75 min. Phosphate buffer solution (pH 6.5) was added and the mixture was extracted with EtOAc. The combined extracts were dried (Na2SO4) and the solvent evaporated in vacuo to give a residue which was purified by SPE (10 g). Elution with DCM-cyclohexane (1:3) then DCM then EtOAc gave the title compound (658 mg). LCMS RT=3.62 min.

reactant | Sodium hydride | 145 mg | [H-].[Na+]
reactant | 4-(2-hydroxyethyl)phenol | 502 mg | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | tert-Butyldimethylsilyl chloride | 547 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Phosphate | pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)ethanol | 658 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCO | C14H24O2Si
